US06407107B1
Synthesis of 2-(4-Butanoylpiperazinyl)ethyl butanoate (BEB) 3
Butyryl chloride (11.83 g, 0.11 mol) was added dropwise to a cooled solution of 4.84 g (0.04 mol) of 1-(2-hydroxyethyl)-piperazine in 20 ml of chloroform. Cooling was maintained for 2 h, and a white precipitate formed. Chloroform (15 ml) was added and the mixture was stirred overnight, washed with 210 ml of cold 0.6 N sodium hydroxide solution, then washed twice with 50 ml of cold water. The organic fraction was dried over anhydrous sodium sulfate, filtered and, concentrated in vacuo to yield 9.39 g (94%) of a clear yellow liquid. This was distilled: bp 144-146° C., (0.5 mm Hg) to give 6.08 g (65%) of MEB. 1 HNMR (CDCl3) δ 0.897 (t, 3H, J=7.4, CH3), 0.901 (t, 3H, J=7.4, CH3), 1.59 (m, 2H, CH3CH2), 1.61 (m, 2H, CH3CH2), 2.24 (t, 2H, J=7.4, CH2CO), 2.25 (t, 2H, J=7.4, CH2CO), 2.42-2.43 (app t, 2H, J=5.2, axial CH ester end of ring), 2.43-2.44 (app t, 2H, J=5.2, equatorial CH ester end of ring), 2.59 (t, 2H, J=5.8, N—CH2—CH2—O), 3.41 (app t, 2H, axial CH amide end of ring), 3.57 (app t, 2H, equatorial CH amide end of ring), 4.16 (t, 2H, N—CH2—CH2—O); MS m/z 270 (M+), 255, 242, 227, 199, 182, 169 (Base Peak).

reactant | Butyryl chloride | 0.11 mol, 11.83 g | C(CCC)(=O)Cl | C4H7ClO
reactant | 1-(2-hydroxyethyl)-piperazine | 0.04 mol, 4.84 g | OCCN1CCNCC1 | C6H14N2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Butanoylpiperazinyl)ethyl butanoate | 9.39 g, 94% | C(CCC)(=O)OCCN1CCN(CC1)C(CCC)=O | C14H26N2O3
